Q1 (net5 net6 net6 0) npn
Q0 (net11 net10 net18 0) npn
R5 (VB1 net5) resistor
R4 (net6 VDD) resistor
R3 (net18 VDD) resistor
R2 (net10 VDD) resistor
R1 (VSS net10) resistor
R0 (VSS net11) resistor
C3 (net18 VDD) capacitor
C2 (net10 net18) capacitor
C1 (net5 VDD) capacitor
C0 (net16 net6) capacitor
L1 (net11 VOUT1) inductor
L0 (net16 net10) inductor